US05434289
To a solution of 21.5 mg (0.05 mmol) of (R)-1 in 3 ml of toluene were added 176 mg (1 mmol) of 1-ethylthio-1-(trimethylsilyl)oxyethene and 150 mg (1 mmol) of α-benzyloxyacetaldehyde at 0° C. After stirring for 2 hours at that temperature, the resultant mixture was poured into 10 ml of a buffer (pH 7) at 0° C. The solution was filtered through a pad of Celite, and the filtrate was extracted three times with a 5 ml portion of diethyl ether. The combined organic layer was washed with brine, dried over magnesium sulfate, and evaporated under reduced pressure to give a crude product in a silylated form. The crude product was poured into 10% hydrochloric acid-methanol, and the mixture was purified by silica gel chromatography (eluent: hexane/ethyl acetate=20/1 by volume) to obtain S-ethyl 4-benzyloxy-3-hydroxybutanethioate in a yield of 84%.

reactant | 1-ethylthio-1-(trimethylsilyl)oxyethene | 1 mmol, 176 mg | C(C)SC(=C)O[Si](C)(C)C | C7H16OSSi
reactant | α-benzyloxyacetaldehyde | 1 mmol, 150 mg | C(C1=CC=CC=C1)OCC=O | C9H10O2
reactant | hydrochloric acid methanol | Cl.CO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | S-ethyl 4-benzyloxy-3-hydroxybutanethioate | yield of 84% | C(C1=CC=CC=C1)OCC(CC(SCC)=O)O | C13H18O3S
